US07932262B2
Step 1. 4-(6-Bromo-7-methoxyquinazolin-2-ylamino)-N-isopropylbenzamide
To a 0.25M suspension of 6-bromo-2-chloro-7-methoxyquinazoline in isopropanol was added 4-amino-N-isopropylbenzamide (1.0 eq). The reaction mixture was heated to 100° C. in an oil bath for 14 h. Reaction mixture was diluted with ethyl acetate and filtered to collect desired product. ES/MS m/z 415/417 (MH+).

reactant | 6-bromo-2-chloro-7-methoxyquinazoline | BrC=1C=C2C=NC(=NC2=CC1OC)Cl | C9H6BrClN2O
reactant | 4-amino-N-isopropylbenzamide | 1.0 eq | NC1=CC=C(C(=O)NC(C)C)C=C1 | C10H14N2O
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(6-Bromo-7-methoxyquinazolin-2-ylamino)-N-isopropylbenzamide | BrC=1C=C2C=NC(=NC2=CC1OC)NC1=CC=C(C(=O)NC(C)C)C=C1 | C19H19BrN4O2
